US03966953
SYNTHESIS OF 3-ETHYL-2-[O-(ALLYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE
A solution of 2.0 g of 3-ethyl-2-oximino-4-thiazolidinone in 100 ml chloroform and 50 ml of acetonitrile, 1.04 g allylisocyanate and 2 drops of triethylamine was taken in a pressure bottle and left standing overnight at ambient temperature. Concentration yielded 2.6 g of product, m.p. 103°-104°.

reactant | 3-ethyl-2-oximino-4-thiazolidinone | 2.0 g | C(C)N1C(SCC1=O)=NO | C5H8N2O2S
reactant | allylisocyanate | 1.04 g | C(C=C)N=C=O | C4H5NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 3-ETHYL-2-[O-(ALLYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE | 2.6 g | C(C)N1C(SCC1=O)=NOC(NCC=C)=O | C9H13N3O3S
